US08252781B2
Preparation of 1-(cyclopropylmethyl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one and cyclopropylmethyl bromide were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a colorless oil.

reactant | 2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
product | 1-(cyclopropylmethyl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one | C1(CC1)CN1N(C(C1(C)C)=O)C1C2CC3CC(CC1C3)C2 | C18H28N2O
